US07476399B2
4-Hydroxy-3-methyl-N-(1-methyl-3-phenyl-propyl)-benzamide
Prepared in a similar manner to example 4 using 4-hydroxy-3-methyl-benzoic acid and 1-methyl-3-phenyl-propylamine. MS (M+H, 284.2).

reactant | 4-hydroxy-3-methyl-benzoic acid | OC1=C(C=C(C(=O)O)C=C1)C | C8H8O3
reactant | 1-methyl-3-phenyl-propylamine | CC(CCC1=CC=CC=C1)N | C10H15N
product | 4-Hydroxy-3-methyl-N-(1-methyl-3-phenyl-propyl)-benzamide | OC1=C(C=C(C(=O)NC(CCC2=CC=CC=C2)C)C=C1)C | C18H21NO2
